US08071581B2
Compound 179: 3-(1-Methyl-1H-pyrazol-4-yl)-6-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl-quinoline
A mixture of 3-bromo-6-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl-quinoline (69 mg, 0.204 mmol), 1-methyl-4-pyrazoleboronic acid pinacol ester (51 mg, 0.25 mmol), potassium carbonate (56 mg. 0.41 mml), 1,4-dioxane (2 mL) and water (1 mL) was bubbled nitrogen gas through for 10 minutes. After such time dichlorobis(triphenylphosphine)palladium (8 mg, 5 mol %) was added, the vial sealed and heated in a microwave for 1500 seconds at 135° C. The mixture was diluted with dichloromethane and brine, before the organic phase was concentrated onto silica gel and via flash column chromatography (SiO2 4 g, dichloromethane/CH3OH 0-10%) to return the title compound a white solid (11 mg, 16%). Analytical data presented in Table 2.

reactant | 3-bromo-6-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl-quinoline | 0.204 mmol, 69 mg | BrC=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=CC=N2 | C14H9BrN6
reactant | 1-methyl-4-pyrazoleboronic acid pinacol ester | 0.25 mmol, 51 mg | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
reactant | potassium carbonate | 56 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | 3-(1-Methyl-1H-pyrazol-4-yl)-6-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl-quinoline | CN1N=CC(=C1)C=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=CC=N2 | C18H14N8
